US04797492
3-Trifluoromethyl-4-chloro-5-aminoisoxazole
Acetic acid (7 ml) and anhydrous sodium acetate (0.57 g, 7.00 mmole) were added to 3-trifluoromethyl-5-aminoisoxazole (1.06 g, 7.00 mmole) with stirring at room temperature and a solution of chlorine in carbon tetrachloride (8.5 ml, 1 mole/1, 8.40 mmole) was then added dropwise to the mixture. After stirring for 1 hour at room temperature, the reaction mixture was poured into ice-water (70 ml) and it was adjusted to pH 10 with a solution of sodium hydroxide. It was extracted with methylene chloride. After the extract was dried with anhydrous sodium sulfate, the solvent was distilled off under reduced pressure to give a brown viscous liquid (0.80 g). This product was purified by column chromatography on silica gel to give a dark red liquid (0.54 g). It was further distilled under reduced pressure to give the title compound as a colorless liquid. Yield: 0.41 g (31.5%), b.p. 73.0°-74.5° C./4.0 mmHg. The structure of this product was confirmed with IR and NMR.

reactant | sodium acetate | 7.00 mmole, 0.57 g | C(C)(=O)[O-].[Na+]
reactant | 3-trifluoromethyl-5-aminoisoxazole | 7.00 mmole, 1.06 g | FC(C1=NOC(=C1)N)(F)F | C4H3F3N2O
reactant | chlorine | ClCl | Cl2
reactant | carbon tetrachloride | 1 mole, 8.5 ml | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 3-Trifluoromethyl-4-chloro-5-aminoisoxazole | 0.80 g | FC(C1=NOC(=C1Cl)N)(F)F | C4H2ClF3N2O
